Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I was denied medical care."
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ homeless woman with a past
psychiatric history of PTSD and bipolar disorder, who
self-presents to the ___ ___ with multiple somatic complaints
including discoloration of her hands, dysuria, and sputum with
concerns that she may have been poisoned or have lead poisoning. 


Per the ___ team, on their evaluation she was talking to a 
picture
___ on her phone and accused the ___ resident and RN 
of
being on drugs and threatened to sue the hospital.  

To review her recent past medical history, she
self-presented to ___ yesterday with multiple somatic complaints
including bilateral hand/foot discoloration which she attributed
to lead poisoning. On psychiatric assessment there, she was 
found
to exhibit paranoia, somatic and paranoid delusions,
perseverative thought process surrounding legal case involving
her son and overall irritability. She was felt to possess a
primary psychotic disorder (likely delusional disorder),
exacerbated by reported cannabis use, although the severity did
not meet ___ criteria. She was initially amenable to CSU
placement, however then became quite irritable and demanded to 
be
discharged. She was not felt to meet ___ criteria and was
encouraged to follow-up with her outpatient psychiatrist. 

On assessment in the ___, Ms. ___ reports that she decided 
to
self-present here because she has multiple somatic complaints
including skin discoloration, facial rash, increased clear 
sputum
production, cough, and dysuria which she strongly believes are
due to either lead poisoning or someone poisoning her. She 
thinks
that her food may have been poisoned or that someone may have
"put an STD in [her] food...or possibly hepatitis." For the past
6 months she has been sleeping at the ___, but
reports that she witnessed an assault at the ___ 2 nights 
ago
and now feels unsafe there. She believes people there are 
talking
about her and that she feels specifically targeted. Lately, she
has been extremely preoccupied by her legal proceedings
surrounding charges against her for sexually abusing her
___ son in ___. She feels that since ___, the legal and
healthcare systems have been conspiring against her. She denies
that she abused her son and reports that she was psychiatrically
hospitalized in ___ and given a false diagnosis of bipolar
disorder when she was hospitalized for a week at that time. She
disagrees with this diagnosis and believes it is part of a
conspiracy which has prevented her from accomplishing her goals
including maintaining stable housing, returning to school, and
working. Her paranoia has interfered with her ability to sleep 
at
night; she reports she feels the need to stay awake to protect
herself but then does doze a bit in ___ during the 
day.
Her outpatient psychiatrist is Dr. ___ who
prescribes her "bipolar medications". She has not taken any of
her medications in quite some time because she does not believe
she needs them. She denies thoughts of harm to herself or 
others,
however does say she would defend herself if others harmed her.

On Psych ROS, 
-Depression: denies low mood, suicidal thoughts, hopelessness, 
or
helplessness 
-Mania: reports very little sleep, +irritable, mildly grandiose,
increased goal-oriented behavior around disproving her legal
charges with increased facebook activity
-Anxiety: reports flashbacks to sexual trauma as a child
-Psychosis: denies auditory/visual hallucinations, +paranoia,
+somatic delusions, +persecutory delusions

COLLATERAL: 
Per BEST, ___ with history of PTSD and psychosis. 
-Seen ___ refused treatment at ___ after being triggered at
___. Was sleeping there and woke up to someone
being physically assaulted, pushed down the stairs. Left the
shelter due to fear of being assaulted. 
-___ hospitalized (details unclear). Accused of putting
screwdriver in her ___ son's anus at that time. 
 
Past Medical History:
None reported
 
Social History:
Homeless, currently staying at ___. Previously
worked as a ___, last in ___. Estranged from her 5 sons. ___
any social supports. Both her parents are deceased. Has 1 sister
who she is estranged from. Born in ___, moved to ___ at ___ 
years old.

Substance use history:
Alcohol: Denied; denied history of heavy alcohol use; denied
history of complicated withdrawal
Marijuana: Current use, "Medical marijuana,"
Denied other recreational drug use

Forensic History:
*Per Dr. ___ Consult Note from ___:
-Perseverates on legal proceedings regarding sexual abuse of her
son. Reports that in ___ she was charged with sexually abusing
her son. ___ that this occurred but unable to provide further
details on her current legal status. 
Arrests: unknown
Convictions and jail terms: unknown
Current status (pending charges, probation, parole): unknown
 
Family History:
Denied any family history of mental illness, completed suicides, 
suicide attempts, or addiction.
 
Physical Exam:
ADMISSION:
PHYSICAL EXAMINATION:
VS: BP 99/60, HR 63, T 98.5 F, RR 16, SaO2 100% on RA
* General: NAD. Appears stated age. Disheveled.
* HEENT: Normocephalic. PERRL, EOMI. Oropharynx clear.
* Neck: Supple, trachea midline. No adenopathy or thyromegaly.
* Back: No significant deformity. 
* Lungs: Clear to auscultation bilaterally. No crackles or
wheezes.
* CV: Regular rate and rhythm. No murmurs/rubs/gallops. 2+ pedal
pulses.
* Abdomen: Soft, nontender, nondistended; no masses or
organomegaly.
* Extremities: No clubbing, cyanosis, or edema.
* Skin: Warm and dry. No readily apparent rashes, scars, or
lesions.
Neurological:
  *Cranial Nerves: 
     pupils symmetry, responsiveness to light, accommodation:
PERRLA
     visual fields: Full to confrontation
     EOM: Full
     facial sensation to light touch in all 3 divisions: Equal
     facial symmetry on eye closure and smile: Symmetric
     hearing bilaterally to rubbing fingers: Normal
     phonation: Normal
     head turning and shoulder shrug: Intact
     tongue: Midline
  *Motor- Normal bulk and tone bilaterally. No abnormal
movements, no tremor. Strength full power ___ throughout. No
gross focal motor or sensory deficits, normal gait.
  *Coordination: Normal on finger-nose-finger.
  *Deep tendon reflexes: 2+ and symmetrical, toes downgoing.
  *Sensation: Intact to light touch, position sense intact.
  *Gait: Steady. No truncal ataxia. Normal stance and posture.
  *Romberg: Negative.
NEUROPSYCHIATRIC EXAMINATION:
* Appearance: NAD. Appears stated age. Appears disheveled, long
brown hair not brushed, malodorous, wearing hospital gown and
socks, holding onto bin full of shower items
* Behavior: Appropriate with fair eye contact, and she is
cooperative with interview.
* Orientation: Oriented to self, location, and date.
* Mood: "Fine."
* Affect: Dysthymic, constricted, mostly appropriate
* Thought Process: Tangential. +LOA. Readily apparent
disorganization.
* Thought Content: Focused on somatic symptoms. Denied suicidal
thoughts, plans, and actions. Denies HI. 
* Judgment: Poor.
* Insight: Poor.
* Speech: Reduced spontaneity. Moderately increased and volume
COGNITION:
* Memory: Registration ___. Recall ___. Remote memory intact.
* Abstraction: Apple/orange = juicy.
* Proverb: Refused
* Calculation: $1.25 = 5 quarters.
* Fund of knowledge: Names ___ presidents and 0 current events.
* Attention span: Incorrectly listed DOWB without error, made it
half way through and then started talking about something else
* Language: ___ speaker. 

DISCHARGE:
*VS: VSS
Neurological:
*Station and gait: Steady, without ataxia or gait disturbances.
*Tone and strength: No gross deficits noted in strength and 
tone.
*Cranial nerves: II-XII grossly intact.
*Abnormal movements: None observed on exam.
Mental Status Exam:
*Appearance: NAD. Appears stated age, adequate hygiene, with 
long
uncombed, matted hair, wearing hospital gown
*Behavior: Cooperative, less guarded, -PMA/PMR, intense eye
contact at times
*Mood: "Very good."
*Affect: Euthymic, slightly labile
*Thought Process: Mostly circumstantial, significantly improved
from previous exam. +LOA.
*Thought Content: Preoccupied w/ somatic complains, but
responsive to verbal redirection, much improved from admission
exam. Denied suicidal thoughts, plans, and actions. Denied HI.
Denied A/V hallucinations.
*Speech: Spontaneous, increased volume and rate, mostly coherent
*Judgment and Insight: Poor/poor, both improved from admission
exam
Cognition:
*Attention: Alert, inattentive during interview.
*Orientation: Oriented to person, place, and situation.
*Memory: Appears intact to recent events, limited past history.
*Fund of knowledge: Adequate. 
*Language: ___, fluent, without paraphrasic errors.
 
Pertinent Results:
___ & Admission labs (___):
-CBC: WNL
-BMP: WNL
-LFTs: WNL
-UA: WNL
-Urine tox: Negative
-Serum tox: Negative 

___ CXR (___):
The cardiomediastinal and hilar contours are within normal 
limits.  A
circumscribed punctate density at the right lung base likely 
represents a
small calcified granuloma or less likely a vessel on end. 
Otherwise, the lung
fields are clear. There is no pneumothorax, fracture or 
dislocation.  Limited
assessment of the abdomen is unremarkable. No acute 
cardiopulmonary abnormality.

PPD (read ___:
0 mm induration
 
Brief Hospital Course:
SAFETY: Patient was placed on 15 minute checks on admission and 
remained here on that level of observation throughout. She was 
unit restricted. There were no acute safety issues during this 
hospitalization.

LEGAL: ___
PSYCHIATRIC:
#Psychosis: On admission, patient was isolative, guarded but 
maintained behavioral control. During hospitalization, patient 
was evaluated and found to have tangential, disordered thoughts 
with some loose associations as well as delusions. Patient was 
perseverative with somatic symptoms, including hand and leg 
discoloration, facial rash, and later arm weakness. On admission 
exam, patient appeared markedly disorganized, paranoid, with 
tangential thought process, +LOA, perseverative on somatic 
symptoms, irritable labile affect, and pressured speech. Patient 
was restarted on Olanzapine ___ in ___ ___ and admitted 
2 days later to the inpatient psychiatry unit, where Olanzapine 
was continued without interruption.

Initial interviews on the inpatient psychiatry unit were 
challenging due to marked somatic preoccupation, paranoia, 
tangentiality, and delusional content. However, patient 
demonstrated improvement in psychotic and affective symptoms, 
and gradually tolerated and engaged more in team interviews. 
Patient was able to sit for full interview with the team, though 
required redirection and encouragement to continue with 
interview. Patient demonstrated improved thought process and 
organization; however, continued to demonstrate irritability and 
marked paranoia. Throughout patient's hospitalization, even 
after significant improvement in symptoms, patient reported 
others were recording her, patient frequently stated she felt 
wronged and slighted by staff on the unit. Patient's delusions 
appeared to be longstanding, and exacerbated by recent affective 
symptoms. Patient's presentation is most consistent with 
decompensated primary psychotic disorder, most likely 
schizoaffective disorder. Differential diagnosis also includes 
BPAD w/ psychosis. It is also possible that substance use 
contributed to patient's symptom, though patient reported rare 
("medical") cannabis use prior to presentation. Patient's 
discharge psychiatric medication regimen included Olanzapine 20 
mg PO daily and Olanzapine 5 mg PO daily PRN anxiety.

Patient identified past trauma as triggering. Due to 
destabilizing nature of past trauma, CPVR was consulted and 
participated in patient's care.

MEDICAL:
# Admission medical workup: Initial labs (___) 
significant for unremarkable CBC, BMP, UA, TSH, B12, folate, 
thiamine, LFTs as well as negative serum and urine tox screens. 
RPR was non-reactive.

# Right lung density: ___ workup (___) significant for CXR 
with circumscribed punctate density at the right lung base, 
small calcified granuloma vs. less likely a vessel on end 
(___). On exam, VSS and lung exam was CTAB, with 
comfortable breathing.  Given patient's exposure to possible TB 
(homeless shelters), CXR finding, and many somatic complaints 
(notably no continued respiratory complaints past admission), a 
PPD was placed for concern of latent TB. Patient's PPD read 0 mm 
induration on ___. At discharge, patient was instructed to 
follow up with her PCP ___ 2 weeks or sooner if respiratory 
of new symptoms.

# Vitamin B12: Admission labs significant for Vitamin B12 <400. 
Patient received Vitamin B12 supplementation 1q subQ/IM x1 
___. Patient was instructed to follow up with her PCP 
___ 2 weeks of discharge to discuss further supplementation.

# Constipation: Patient was started on standing Colace and Senna 
BID. For refractory constipation, patient received MOM with 
effect. Patient was also encouraged to hydrate and exercise.

PSYCHOSOCIAL:
#) GROUPS/MILIEU: Patient was encouraged to participate in 
unit’s groups, milieu, and therapy opportunities. Usage of 
coping skills, mindfulness, and relaxation methods were 
encouraged. Therapy addressed family, social, work, and housing 
issues. Following some symptom stabilization, patient began to 
participate in groups. Patient was noted to demonstrate improved 
attention and behavioral control with group tasks. Patient was 
noted to engage in appropriate interactions with staff.

#) COLLATERAL CONTACTS:
1.) Outpatient Psychiatrist, Dr. ___ 
(___):
At admission to the unit, patient gave permission for her 
current outpatient psychiatrist to be contacted and involved 
with her care. Dr. ___ met patient ___, and 
has seen q1-3 months since this time. Patient appears to have 
poor compliance with medication and psychiatric care. He has 
recommended her to see a therapist, but she has not followed 
through with this. Past diagnoses include bipolar disorder and 
mania. Last rxs included Oxcarbazapine 300 mg BID, Zyprexa 20 mg 
QHS, and Paxil 40 mg BID ___, though he is skeptical that 
patient is compliant with medications. No past suicide attempts 
reported. No past violence reported.  Patient was living in a 
shelter at this time after arguments with others, which is not 
unusual for her. Patient frequently appears hypomanic. Patient's 
baseline includes some disorganization. Patient demonstrates 
limited insight into own symptoms and mental health problems. 
Patient is typically paranoid, evasive, guarded, and somewhat 
grandiose, though superficially pleasant. At most recent visit 
did not appear acutely decompensated; however, acknowledged 
patient is typically quite evasive and guarded.

2.) Case Manager ___, Ms. ___ 
(___):
Patient reported significant paranoia about staff at ___ 
___ however, agreed to contact with ___. 
Started staying at ___ 2 months ago. Patient has been 
doing poorly throughout time at the ___, without acute 
change in behavior. Patient has been observed self dialoguing, 
hysterical, and irritable at times. No arguments with others in 
the ___. No violence. 

INFORMED CONSENT:
The Team discussed the indications for, intended benefits of, 
and possible side effects and risks of this medication, and 
risks and benefits of possible alternatives, including not 
taking the medication, with this patient. We discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment and discussing any questions about medications 
with the treatment team, and I answered the patient's questions. 
The patient appeared able to understand and consented to begin 
the medication.

RISK ASSESSMENT:
Low imminent risk of harm/violence to self/others. Patient's 
risk factors include chronic and severe mental illness, active 
psychiatric decompensation, active cannabis abuse, lack of day 
structure, history of legal involvement (alleged significant 
severe harm to son during previous bipolar decompensation, 
single status, history of noncompliance (with both medications 
and active engagement with treater), evidence of impulsivity, 
constricted psychosocial support, and homelessness, network 
place patient at moderate to high risk of harm to 
self/inadequate self-care. Protective factors include help 
seeking behavior and established outpatient psychiatrist, and no 
past suicide attempt.

PROGNOSIS:
Fair- While patient is prone to relapse into mania/psychosis 
given nature of her illness, h/o noncompliance, and prolonged 
functional decline, patient appears motivated to obtain 
treatment, is help seeking, and demonstrated significant 
improvement in stabilization while hospitalized.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OLANZapine 20 mg PO DAILY 
2. OXcarbazepine 300 mg PO BID 
3. PARoxetine 40 mg PO BID 

 
Discharge Medications:
1. OLANZapine 20 mg PO DAILY 
RX *olanzapine 20 mg 1 (One) tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
2. OLANZapine 5 mg PO DAILY:PRN anxiety 
RX *olanzapine 5 mg 1 (One) tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
3. Senna 8.6 mg PO DAILY 
RX *sennosides [senna] 8.6 mg 1 (One) by mouth daily Disp #*30 
Tablet Refills:*0
4. Docusate Sodium 100 mg PO DAILY 
RX *docusate sodium 250 mg 1 (One) capsule(s) by mouth daily 
Disp #*30 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Schizoaffective

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
-Please keep follow up appointment
 
Followup Instructions:
___